US08729095B2
A trifluoroacetic acid solution (10 ml) of tert-butyl 3-{[3′-fluoro-4′-({4-[(3S)-7-fluoro-3-methyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-1-yl]piperidin-1-yl}carbonyl)biphenyl-2-yl]oxy}-2,2-dimethylpropanoate (940 mg) was stirred at room temperature for 1 hour. After the reaction solution was concentrated under reduced pressure, the resulting residue was neutralized with a saturated aqueous sodium hydrogen carbonate solution, and then a 10% aqueous citric acid solution was added, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Ethyl acetate-hexane was added to the residue to collect the precipitate by filtration. This was redissolved in ethanol, to which water was added, and the resulting precipitate was collected by filtration to afford 3-{[3′-fluoro-4′-({4-[(3S)-7-fluoro-3-methyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-1-yl]piperidin-1-yl}carbonyl)biphenyl-2-yl]oxy}-2,2-dimethylpropanoic acid (668 mg).

reactant | tert-butyl 3-{[3′-fluoro-4′-({4-[(3S)-7-fluoro-3-methyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-1-yl]piperidin-1-yl}carbonyl)biphenyl-2-yl]oxy}-2,2-dimethylpropanoate | 940 mg | FC=1C=C(C=CC1C(=O)N1CCC(CC1)N1C2=C(O[C@H](C1=O)C)N=CC(=C2)F)C2=C(C=CC=C2)OCC(C(=O)OC(C)(C)C)(C)C | C35H39F2N3O6
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-{[3′-fluoro-4′-({4-[(3S)-7-fluoro-3-methyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-1-yl]piperidin-1-yl}carbonyl)biphenyl-2-yl]oxy}-2,2-dimethylpropanoic acid | 668 mg | FC=1C=C(C=CC1C(=O)N1CCC(CC1)N1C2=C(O[C@H](C1=O)C)N=CC(=C2)F)C2=C(C=CC=C2)OCC(C(=O)O)(C)C | C31H31F2N3O6
